US05258356
2-Amino-5,6-dimethyl-7-phenylthio-1,8-naphthyridine
13 g of a 30% strength methanolic sodium methylate solution is introduced into 5.0 g (24 mmol) of 2-amino-7-chloro-5,6-dimethyl-1,8-naphthyridine and 8.0 g (72 mmol) of thiophenol in 100 ml of anhydrous methanol. The mixture is boiled under reflux for 3 hours and stirred overnight at room temperature. 200 ml of water is added, the mixture is stirred for 1 hour, and the precipitated solid is filtered off, washed with a small amount of methanol and dried under reduced pressure. There is obtained 4.7 g of a pale yellow solid.

reactant | sodium methylate | C[O-].[Na+]
reactant | 2-amino-7-chloro-5,6-dimethyl-1,8-naphthyridine | 24 mmol, 5.0 g | NC1=NC2=NC(=C(C(=C2C=C1)C)C)Cl | C10H10ClN3
reactant | thiophenol | 72 mmol, 8.0 g | C1(=CC=CC=C1)S | C6H6S
reactant | water | 200 ml | O | H2O
solvent | methanol | 100 ml | CO | CH4O
product | 2-Amino-5,6-dimethyl-7-phenylthio-1,8-naphthyridine | 4.7 g | NC1=NC2=NC(=C(C(=C2C=C1)C)C)SC1=CC=CC=C1 | C16H15N3S
